US04049717
Preparation of 1,2,3,4-tetrahydro-4-oxo-1-naphthylurea
A sample of 26.55 g. of 1,2,3,4-tetrahydro-4-oxo-1-naphthylamine hydrochloride is dissolved in 250 ml. water and a solution of 21.8 g. of potassium cyanate in 75 ml. of water added. The reaction mixture is stirred for 72 hours, the precipitate formed in the reaction is collected by filtration and dried to afford 21.45 g. of the title compound, m.p. 225° C. (dec.).

reactant | 1,2,3,4-tetrahydro-4-oxo-1-naphthylamine hydrochloride | Cl.O=C1CCC(C2=CC=CC=C12)N
reactant | potassium cyanate | [O-]C#N.[K+]
solvent | water | O | H2O
product | 1,2,3,4-tetrahydro-4-oxo-1-naphthylurea | O=C1CCC(C2=CC=CC=C12)NC(=O)N | C11H12N2O2
